* source POST-FILTER
.EXTERNAL OUTPUT +15V
.EXTERNAL OUTPUT -15V
X_U2         0 N15108 +15V -15V N15069 OPA161X
V_V1         +15V 0 15Vdc
V_V2         -15V 0 -15Vdc
R_R1         N14700 N14707  2.5k TC=0,0 
C_C1         N14700 N14707  47p  TC=0,0 
R_R3         N15122 N15108  2k TC=0,0 
R_R4         N15122 N15069  4.7k TC=0,0 
C_C2         N15108 N15069  180p  TC=0,0 
R_R5         0 N15069  47k TC=0,0 
C_C3         0 N15122  560p  TC=0,0 
X_U3         0 N14700 +15V -15V N14707 OPA161X
R_R2         N15122 N14707  4.7k TC=0,0 
I_I2         N14700 0 DC 0Adc AC 1mAac
+SIN 0mA 1.2mA 1kHz 0 0 0
